Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Liver Failure
 
Major Surgical or Invasive Procedure:
___ Transjugular liver biopsy
___ EGD
___ Attempted colonoscopy
___ Thoracentesis
___ ___ guided percutaneous cholecystostomy tube placement 
and drainage of ascitic fluid
 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with a history of alcohol 
consumption, who is being admitted with acute onset of 
decompensated cirrhosis. Patient developed right leg weakness in 
___. This grew progressively worse, until right leg 
"buckled out" from under him (attributed to subsequently found 
iliopsoas hematoma). When he was picked up by EMS at that time, 
they noticed that he was floridly jaundiced. Since then, he has 
had two admissions to ___ for new onset, 
decompendated cirrhosis. His MELD was 28 on ___. Now, per 
advice of his outpatient Hepatologists, he is being admitted 
from ___ Phone: (___). He 
was still on prednisone until ___ (when it was discontinued in 
clinic). His LFT's were in the 900 in mid ___, and are coming 
down. From outpatient clinic on ___, labs on ___ showed that 
LFTs trended down from previous, but patient was clinically 
worse with MELD 30. Patient then admitted for expedited work-up. 
Biopsy has not been done previously.
.
Patient reports that he has never been jaundiced before. He 
denies any abdominal distention, episodes of confusion, 
hematochezia, melena or hematemesis. He has been drinking ___ 
glasses of white wine per day since ___. Prior to that, he 
had alternating periods of alcohol consumption and sobriety. He 
denies any past IV drug use, tattoos, blood transfusions, or 
surgeries. He has never been told that he has high blood 
pressure in the past. He has not been sexually active for the 
past ___ years, but never checked for any sexually transmitted 
diseases. He is unaware of any iron disorders. He denies any 
family history of any liver diseases or cancers. He is of 
___ decent.
.  
Today, he just notes that he has pain on his coccyx from a 
couple of ulcers that were being treated with special dressings 
at rehab. 
.  
.  
REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
- EtOH consumption: no apparent periods of abuse
- Cirrhosis  
- Stress test in ___ for chest pain, revealed no CAD
- hiatal hernia 
- Iliopsoas Hematoma  
- flu in ___
- question of asthma (prescribed an inhaler but never used it) 
- has never had a colonoscopy or EGD
 
Social History:
___
Family History:
No family history of liver disease or iron storage disorders. 
One brother with mental retardation. One brother with UC.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - Temp 100.2F, BP 101/61, HR 71, R 18, O2-sat 100% RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae icteric  
NECK - Supple,  
HEART - ___ systolic murmur heard throughout  
LUNGS - CTAB, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses, liver edge 2cm below 
costal margin  
EXTREMITIES - WWP, 2+ pitting edema in the bilateral ___, no 
calf tenderness  
SKIN - icteric  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout except for ___ in the right hip flexor, no 
asterixis
.
DISCHARGE PHYSICAL EXAM:
EXPIRED
 
Pertinent Results:
ADMISSION LABS:
___ 01:40PM BLOOD WBC-15.0* RBC-2.60* Hgb-9.8* Hct-28.6* 
MCV-110* MCH-37.9* MCHC-34.4 RDW-20.2* Plt Ct-38*
___ 01:40PM BLOOD Neuts-85* Bands-1 Lymphs-4* Monos-10 
Eos-0 Baso-0 ___ Myelos-0
___ 01:40PM BLOOD ___
___ 01:40PM BLOOD UreaN-27* Creat-0.8 Na-125* K-5.7* Cl-91* 
HCO3-24 AnGap-16
___ 01:40PM BLOOD ALT-161* AST-143* CK(CPK)-76 AlkPhos-220* 
TotBili-24.0* DirBili-6.8* IndBili-17.2
.
DISCHARGE LABS:
___ 03:05PM BLOOD WBC-11.1*# RBC-0.75*# Hgb-2.7*# Hct-9.1*# 
MCV-120* MCH-36.5* MCHC-30.6* RDW-23.0* Plt Ct-44*#
___ 03:05PM BLOOD ___ PTT-54.5* ___
___ 03:05PM BLOOD Glucose-366* UreaN-78* Creat-2.2* Na-138 
K-5.6* Cl-102 HCO3-19* AnGap-23*
___ 03:05PM BLOOD ALT-17 AST-41* LD(LDH)-312* AlkPhos-46 
TotBili-9.3*
___ 07:09PM BLOOD Lipase-70*
___ 03:05PM BLOOD Calcium-8.3* Phos-6.6* Mg-2.2
___ 05:11PM BLOOD Type-ART pO2-133* pCO2-40 pH-7.29* 
calTCO2-20* Base XS--6
___ 05:11PM BLOOD Lactate-7.8*
.
PERTINENT LABS:
___ 06:12AM BLOOD ___
___ 05:44AM BLOOD Hapto-<5*
___ 05:44AM BLOOD Triglyc-85 HDL-107 CHOL/HD-1.4 LDLcalc-30
___ 01:40PM BLOOD TSH-1.7
___ 05:45PM BLOOD 25VitD-12*
___ 01:40PM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE HAV 
Ab-POSITIVE
___ 05:45PM BLOOD HBsAb-NEGATIVE HBcAb-NEGATIVE
___ 05:45PM BLOOD AMA-NEGATIVE
___ 05:45PM BLOOD ___
___ 05:45PM BLOOD CEA-12* PSA-0.2 AFP-1.8
___ 05:45PM BLOOD IgG-1240 IgA-674* IgM-271*
___ CA ___    504  H  
___ CERULOPLASMIN  15  L  
___ 05:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:45PM BLOOD HCV Ab-NEGATIVE
___ 07:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-MOD Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:00PM URINE Hours-RANDOM TotProt-6
___ Urine PEP: no protein
___ Free kappa and lambda light chains: 
FREE KAPPA, SERUM             20.1  H   (ref range 3.3-19.4 
mg/L) 
FREE LAMBDA, SERUM            30.2  H   (ref range 5.7-26.3 
mg/L) 
FREE KAPPA/LAMBDA RATIO       0.67      (ref range 0.26-1.65)
___ Serum PEP: polyclonal
___ Urine porphyrins:
Test                          Result              Reference 
Range/Units
UROPORPHYRIN                  53.7  H             22.0 OR LESS 
mcg/g creat
HEPTACARBOXYPORPHYRIN         12.3  H             4.6 OR LESS 
mcg/g creat
HEXACARBOXYPORPHYRIN          NOT DETECTED        NOT DETECTED 
mcg/g creat
PENTACARBOXYPORPHYRIN         2.9  H              1.7 OR LESS 
mcg/g creat
COPROPORPHYRIN                575.4  H            23.0-130.0 
mcg/g creat
TOTAL PORPHYRINS              644.3  H            31.0-139.0 
mcg/g creat
.
___  IRON, LIVER TISSUE
Test Name                Flag     Result      Units       
Reference    
---------                ----     ------      -----     
---------------    
Iron, Liver Tissue        H        3497    mcg/g dry wt     ___
  Hepatic Iron Index      H         1.0    mcmol/g/yr        
<1.0
.
___ 05:35AM BLOOD proBNP-986*
___ 03:27PM BLOOD ___ pO2-34* pCO2-39 pH-7.45 
calTCO2-28 Base XS-2 Intubat-NOT INTUBA Comment-NASAL ___
___ 08:41AM BLOOD Type-ART Temp-36.2 pO2-57* pCO2-38 
pH-7.48* calTCO2-29 Base XS-4 Intubat-NOT INTUBA Comment-NASAL 
___
___ 08:41AM BLOOD Glucose-102 Lactate-2.8* Na-137 K-5.0 
Cl-103
___ 08:41AM BLOOD freeCa-1.29
___ 06:54PM PLEURAL WBC-375* ___ Polys-8* Lymphs-39* 
Monos-6* Atyps-2* Meso-5* Macro-40*
___ 06:54PM PLEURAL TotProt-1.4 Glucose-224 Creat-1.5 
LD(LDH)-163 Amylase-17 Albumin-1.1 Cholest-18
___ 01:30PM PLEURAL TotProt-1.7 Glucose-160 LD(LDH)-482 
Cholest-21
.
MICROBIOLOGY:
___ RPR: non-reactive
___ Rubella IgG/IgM: positive
___ Varicella IgG: positive
___ CMV IgG: negative
___ EBV antibody panel: 
   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 
   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 
   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
___ 05:45PM BLOOD HIV Ab-NEGATIVE
___ Urine culture: no growth
___ Blood cultures x2: no growth
___ C. diff PCR: negative
___ Blood cultures x2: no growth to date
___ Pleural fluid: gram stain with no PMNs, no 
microorgansims. Fluid culture with no growth to date
___ 11:09 am SWAB      Source: Biliary fluid. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
   FLUID CULTURE (Final ___: 
      A swab is not the optimal specimen collection to evaluate 
body
      fluids. 
      KLEBSIELLA PNEUMONIAE.    MODERATE GROWTH. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------     2 S
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
MEROPENEM-------------<=0.25 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 11:01 am PERITONEAL FLUID
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 
   FLUID CULTURE (Final ___:    NO GROWTH. 
   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

.
PATHOLOGY:
___ Tranjugular liver biopsy (right lobe):
1.  Established cirrhosis (trichrome stain) with mild septal and 
periseptal mononuclear inflammatory infiltrate composed 
predominantly of lymphocytes.  No significant plasma cell 
infiltrate identified.
2.  Iron overload, severe (grade 4); within hepatocytes, Kupffer 
cells and bile duct epithelial cells (Iron stain).
3.  Bile ductular proliferation and cholestasis are also 
present. 
4. No steatosis, ___ hyalin or granulomas are seen.
.
IMAGING:
___ CXR PA/lat: Small right-sided pleural effusion is 
present. There is no pleural abnormality on the left side. Lungs 
are clear. There are no lung opacities concerning for nodules or 
consolidation. Heart size, mediastinal and hilar contours are 
normal.
IMPRESSION: Small right pleural effusion. No nodules or lung 
consolidation.
.
___ Transjugular liver biopsy: Pressures were obtained in 
the following locations: RIGHT ATRIUM: 7 mmHg, FREE RIGHT 
HEPATIC VEIN PRESSURE: 8 mmHg, WEDGED RIGHT HEPATIC VEIN 
PRESSURE: 24 mmHg
The patient tolerated the procedure well and there were no 
immediate
post-procedure complications.
IMPRESSION:
1. Successful fluoroscopic-guided transjugular liver biopsy via 
the right
internal jugular vein. Three core samples of the right hepatic 
lobe were
obtained via the right hepatic vein and sent to pathology.
2. Portosystemic gradient measures 16 mmHg consistent with 
portal
hypertension.
.
___bd/pelvis: In the lung bases, note is 
made of a moderate-sized right pleural effusion with adjacent 
compressive atelectasis. There are no pulmonary nodules or 
masses seen.
ABDOMEN AND PELVIS: There is abnormal morphology to the hepatic 
parenchyma consistent with the patient's known cirrhosis. There 
is a small low-attenuation lesion in the segment VIII of the 
liver measuring less than a centimeter in size and is too small 
to characterize. There is no enhancement within this lesion. 
Additional tiny subcentimeter-sized low-attenuation lesions are 
seen in the liver, which are too small to characterize. There is 
no intra- or extra-hepatic biliary ductal dilatation. The portal 
and hepatic veins are patent. The patient has an aberrant 
hepatic arterial anatomy, with replaced right hepatic artery 
originating from the superior mesenteric artery. No 
hyper-enhancing lesions are seen in the liver.
The gallbladder is slightly distended without wall thickening. 
There is high density within the gallbladder measuring 32HU.
The spleen is enlarged measuring 13.5 cm in the largest 
dimension. There are lower esophageal and paraesophageal 
varices. Note is made of prominent
splenorenal shunting. The splenic and superior mesenteric veins 
appear within normal limits.
There is perihepatic ascites, which measures about 2.5 
Hounsfield units in
density representing simple fluid. There are no hematomas seen 
in the abdomen or pelvis. There is evidence of mild fat 
stranding involving the mesentary suggestive of ascites.
The pancreas, adrenal glands appear within normal limits. The 
kidneys enhance contrast symmetrically and are seen excreting 
contrast without focal abnormalities. Nonspecific perinephric 
fat stranding is seen.
The abdominal aorta is normal in caliber. 
There is no mesenteric or retroperitoneal lymphadenopathy.
The urinary bladder is well-distended without any obvious focal 
abnormalities.
There are coarse calcifications within the prostate gland. There 
is no pelvic lymphadenopathy.
There is bi-lenticular-shaped low-attenuation lesion within the 
right iliacus muscle (series 6, image 61) measuring 
approximately 6.1 x 2.0 cm in size, which extends upward up to 
the level of the iliopsoas insertion into the lesser trochanter 
of the right femur. It measures approximately 39 Hounsfield 
units in density. Please note that he images of the pelvis were 
not obtained on the non-contrast CT images and the visualized 
abnormality within the right iliacus muscle is noted only on the 
three-minute delayed view through the pelvis. It is unclear if 
this is an enhancing lesion or not. Multilevel degenerative 
changes are seen in the spine, without suspicious osteolytic or 
osteoblastic lesions.
Evaluation of bowel is limited due to lack of enteric contrast.
IMPRESSION:
1. No evidence of active extravasation.
2. Bi-lenticular shaped low-density lesion within the right 
iliacus muscle
likely represents patient's known hematoma.
3. Nonspecific findings of high density contents within the 
gallbladder could be secondary to hemobilia, inspissated bile or 
vicarious contrast excretion.
4. Cirrhosis with sequela of portal hypertension.
5. Small hypodense lesions within the liver which are too small 
to
characterize. No hyper-enhancing lesions to suggest HCC.
6. Moderate right pleural effusion with adjacent compressive 
atelectasis.
.
___ EGD: 
Findings: Esophagus: Normal esophagus. 
Stomach: Normal stomach. 
Duodenum: Normal duodenum. 
Recommendations: No varices
No evidence of portal hypertension on EGD 
.
___ TTE: The left atrium is dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Left ventricular systolic function is hyperdynamic (EF 
80%). There is a moderate resting left ventricular outflow tract 
obstruction. Right ventricular chamber size and free wall motion 
are normal. The ascending aorta is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion.  
.
___ CT Abd/pelvis (attempted CTC Virtual Colonoscopy): 
A moderate right pleural effusion is again with adjacent 
compressive
atelectasis (3:4) is minimally changed since ___. The heart size is normal, and there is no pericardial 
effusion. Severe mitral annulus calcifications are unchanged 
(3:6).
Non contrast-enhanced images of the liver demonstrate a mildly 
nodular
contour, in keeping with known history of cirrhosis. Massive 
parasplenic
varices denote chronic portal hypertension (3:29). The pancreas, 
stomach,
adrenal glands, kidneys, and intra-abdominal loops of small and 
large bowel
are within normal limits. No large colonic polyps or masses are 
seen,
although this assessment is limited due to obscuration from 
incomplete
insufflation and obscuring fluids. There is no mesenteric or 
retroperitoneal lymphadenopathy, and no free air or free fluid.
CT OF THE PELVIS WITHOUT IV CONTRAST:
Coarse calcifications reside within the prostate (3:89). The 
urinary bladder and rectum are normal. There is no intrapelvic 
free fluid.
OSSEOUS STRUCTURES:
There is no acute fracture. There are no bony lesions concerning 
for
malignancy or infection.
IMPRESSION:
1. This should not be considered as a virtual CT colonography 
examination.
2. Unchanged moderate right pleural effusion with adjacent 
compressive
atelectasis.
3. Cirrhotic liver. Massive parasplenic varices denote chronic 
portal
hypertension.
.
___ CXR PA/lat: There are lower lung volumes. Cardiac size 
is top normal, is accentuated by the low lung volumes. Moderate 
right pleural effusion is unchanged. New diffuse alveolar 
opacities are likely consistent with pulmonary edema. There is 
no pneumothorax. The aorta is tortuous. 
.
___ LUE U/S: No evidence of deep vein thrombosis in the left 
arm.
.
___ Abdominal ultrasound: Multiple sonographic images were 
obtained. The liver is nodular and coarse in appearance, 
consistent with cirrhosis. A small pocket of ascites is seen 
near the dome of the liver. No ascites was seen in the remaining 
quadrants. The pocket was deemed too small to mark for 
aspiration without real-time ultrasound guidance.  
IMPRESSION: Small pocket of fluid for which realtime 
ultrasound-guided aspiration would be required.
.
___ CXR PA/lat: There are low lung volumes. There are 
developing opacities within the lung bases. These may represent 
atelectasis or more likely developing pneumonia or aspiration. 
Heart size is upper limits of normal but stable. There are no 
pneumothoraces. 
.
___ CTA Chest:
There is no central PE. The subsegmental and distal branches of
the pulmonary arteries are difficult to evaluate secondary to 
respiratory
motion. The great vessels are unremarkable. There is no 
pericardial
effusion. There are mitral valve calcifications along with 
coronary
calcifications most notably in the LAD. There are also aortic 
annulus
calcifications.
There is no mediastinal or axillary lymphadenopathy by CT 
criteria.
Within the lungs, there are dense peribronchial opacities 
surrounded by
ground-glass opacities in bilateral upper lobes. There is also a
moderate-sized nonhemorrhagic layering right-sided pleural 
effusion with
adjacent atelectasis. There is also left-sided opacity 
consistent with
atelectasis, less likely infectious process.
The tracheobronchial tree is patent to the subsegmental level.
This study is not intended for subdiaphragmatic evaluation; 
however, moderate amount of ascites as well as prominent 
splenorenal shunting is seen.
BONES: No suspicious osseous or lytic lesions are seen. A bony 
island is
seen within the posterior approximately tenth rib.
IMPRESSION:
1. No evidence of central PE.
2. Moderate right-sided pleural effusion with adjacent 
atelectasis.
3. Peribronchial opacities representative of pulmonary edema 
diffusely in
bilateral upper lobes.
4. Coronary calcifications along with mitral and aortic annulus
calcifications as described above.
.
___ Cardiac MRI: ***pending final read***
.
___ Abdominal ultrasound: Small amount of ascites only seen 
in the perihepatic space. There is no suitable pocket to mark.
Also noted there is splenomegaly, a right pleural effusion, and 
sludge within the gallbladder.
.
___ CXR PA/lat: There are low inspiratory volumes. Even 
allowing for this, there is probable cardiomegaly. There is 
opacity at the right base obscuring the right hemidiaphragm, new 
compared with ___. The most likely etiology is a small 
effusion with underlying collapse and/or consolidation. Mild 
prominence of vascular markings could reflect mild vascular 
plethora; doubt overt CHF. There is atelectasis at the left 
base. No left effusion.
.
___ CXR portable: Compared with ___ at 8:44 a.m., a 
catheter has been placed at the right base. There is a 
persistent right pleural effusion, probably slightly smaller, 
with underlying collapse and/or consolidation. There is slight 
rightward positioning of the mediastinum and trachea, ? due to 
rotation. There are low inspiratory volumes, with vascular 
plethora and patchy opacity at the left base. No left-sided 
effusion. No pneumothorax is detected. 
IMPRESSION:
1. Interval placement of right-sided (pleural) catheter. A 
portion of the
catheter is indistinct, ? related to site of entry. No 
pneumothorax detected.
2. Right effusion again seen, possibly slightly smaller, with 
underlying
right base collapse and/or consolidation.
3. Confluent opacity in the left midzone and base medially, 
which could
represent an additional focal pneumonic infiltrate.
4. Mild prominence of the cardiomediastinal silhouette with 
slightly
rightward positioning. Please see comment.
5. Probable CHF, even allowing for low lung volumes.
.
___ CXR portable: Compared with ___ at 21:59 p.m., 
there has been improvement at the right base. No effusion is 
identified at the right base on the current exam. Some residual 
atelectasis and/or focal infiltrate at the right base medially 
is again seen, better visualized due to improvements in the 
effusion. Patchy retrocardiac opacity has also improved. Slight 
vascular plethora remains present, but has improved. No 
left-sided effusion.
IMPRESSION: Patchy opacities at both bases are improved. Right 
pleural
effusion has resolved on the frontal view. CHF has also 
improved. No new
area of infiltrate or consolidation identified.

___ CT abdomen/pelvis:
IMPRESSION: 
1. Progressive increased distention of the gallbladder, now 
measuring 7.1 cm in transverse diameter. Evaluation for 
gallbladder wall edema/enhancement cannot be performed secondary 
to lack of intravenous contrast. Acute cholecystitis cannot be 
excluded on this examination. If further imaging confirmation is 
needed, a gallbladder scan could be performed.  
2. Cirrhotic liver with sequelae of portal hypertension. Small 
volume ascites.  
3. Increased density of the kidneys may be a sign of renal 
insufficiency in the setting of prior contrast administration. 

___ ___ guided paracentesis:
IMPRESSION: Technically successful ultrasound-guided drainage of 
1.8 L of dark straw-colored slightly thickened fluid. 
Hemorrhagic ascitic fluid noted within paracentesis tubing at 
the end of percutaneous cholecystostomy procedure. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman, with PMHx significant for 
alcohol consumption but not abuse, now presenting with 
decompensated cirrhosis (for jaundice) of unknown origin for 
expedited transplant work-up. Hospital course complicated by 
acute on chronic anemia, encephalopathy, hypoxia, acute kidney 
injury, coccygeal ulcers and depression.
.  
#Septic shock:  He presented to ICU with hypotension and 
unresponsiveness.  Elevated white count concerning for sepsis of 
unidentified source. Leukocytosis, tachypnea, and hypotension 
were concerning for septic shock.  Right IJ was placed on 
admission to the ICU with initiation of pressors.  Initially, 
phenylepherine was chosen given history of LVOT in attempts to 
avoid tachycardia.  He was bolused several liters of fluid with 
good response as well.  However, he continued to become 
hypotensive requiring initiation of vasopressin then 
norepinepherine to maintain MAPs in the ___ range.  He was 
empirically started on vancomycin and cefepime, with broadening 
to fluconazole given continued decompensation.  CT scan of the 
abdomen was pursued, which identified a >7 cm gallbladder 
concerning for cholecystitis.  Necessity for intervention 
prompted elective intubation on MICU day #2.  ___ was consulted 
and a bedside percutaneous paracentesis and cholecystostomy tube 
placement was performed.  He received FFP and cryoprecipitate 
prior to the procedure as his INR was high and platelet count 
low due to underlying liver disease.  The procedure was 
complicated by bleeding and hypotension.  Ascitic fluid was also 
sent for culture.  Following the procedure, HCP made the 
decision to change code status from full code to DNR.  Soon 
after the procedure, blood pressures continued to drop despite 
being on pressors.  Abdomen was found to be increasingly 
distended.  Hct was checked and had fallen to 9 (from 29 prior 
to the procedure).  He was transfused two units PRBCs.  HCP was 
informed of likelihood that pt was hemorrhaging into 
intra-abdominal cavity.  Possible options were discussed, 
including ___ guided intervention to stop the bleeding.  Given 
overall poor prognosis, HCP made the decision to not pursue 
aggressive management.  BPs continued to drop and he was 
pronounced dead on ___ at 17:40pm.  HCP was informed and 
declined autopsy.  

# Cirrhosis: Patient with cirrhotic liver noted on OSH imaging, 
with jaundice and MELD 23. Only known risk factors for cirrhosis 
are alcohol consumption (family contributed that it is a "jumbo 
bottle" of wine per day), ongoing poor diet/overweight, and 
family history of porphyria cutanea tarda. Cirrhosis etiology is 
most likely a combination of alcoholic cirrhosis, with 
contribution from NAFLD and porphyria (based on family history 
and porphyrin labs). At OSH, HFE gene was negative, making 
hemochromatosis less likely. Other possible etiologies, 
including viral and autoimmune were ruled out on labs and 
serologies. During this admission, the patient had a 
transjugular liver biopsy, which demonstrated elevated portal 
pressures consistent with portal hypertension, with pathology 
showing cirrhosis and severe iron overload. For his transplant 
evaluation, patient had EGD showing normal esophagus, stomach 
and duodenum without varices or portal gastropathy. He had a 
virtual colonscopy, but the study was limited and 
non-diagnostic. Also, his TTE was done; this showed hyperdynamic 
LV with EF 80%, moderate resting LVOT obstruction, and mildly 
thickened aortic valve leaflets. He was continued on furosemide, 
spironolactone, lacutlose and rifaxmin. 
.
# Acute on chronic anemia: Hematocrit stabilized in the low ___, 
with several blood transfusions intermittently during this 
admission for Hcts below 21. There were no active signs of 
bleeding on exam on CT imaging. Patient's labs were consistent 
with ongoing hemolysis that was probably secondary to both 
cirrhosis and porphyria.
.
# Encephalopathy: Throughout the latter half of this 
hospitalization, the patient had waxing and waning somnolence. 
Differential for encephalopathy was broad, including pulmonary 
edema, hypoxia, deconditioning, atelectasis and infection. 
Work-up for infection was negative (no UTI, PNA, infectious 
diarrhea, skin infection or SBP). Likely not attributable 
hepatic encephalopathy, given frequent BMs on lactulose. No 
sedating meds. Most likely etiology was from chronic disease and 
deconditioning from long hospital stay, with some contribution 
from pulmonary edema and atelectasis. 
. 
# Hypoxia: Following attempted colonoscopies, the patient was 
noted to have a new oxygen requirement of 2L supplemental 
oxygen. ABG on ___ demonstrated hypoxia with pO2 57. Etiology 
was unclear, but it was most likely mutlifactorial from pleural 
effusion, LVOT obstruction, atelectasis, and possible silent 
aspiration. Diuretics were initially discontinued to allow more 
BP room for metoprolol for rate control and better preload. 
Patient had a thoracentesis for 800 cc transudative fluid on 
___. He was uptitrated to metoprolol tartrate 25 mg PO BID for 
improvement of preload. Lasix at low dose was restarted. Patient 
was evaluated by speech and swallow, who noted to overt 
aspiration, but recommended HOB elevation, and diet with thin 
liquids and soft solids. 
.
# Acute kidney injury: Creatinine was initially 0.8 and rose to 
1.3 several days prior to discharge, which it remained stable. 
This ___ was likely related to diuretic medications and 
decreased PO intake, along with some decreased cardiac output 
from LVOT obstruction. Patient's diuretics were adjusted. 
.
# Coccygeal ulcers: Noted to have several ulcers, from 
exfoliative stress and pressure. At rehabilitation, he should 
continue commercial cleansing, Duoderm and Mipelex per nursing 
care recommendations. There were no signs of infection.
.
# Depression: Patient expressing hopelessness, and sadness about 
his father's death on ___. This probably contributed to some 
lack of motivation during inpatient physical therapy and rehab 
process. 
.
# Alcohol consumption: Based on patient report, it did not seem 
that he has alcohol abuse beyond what is recommended for his 
gender ___ glasses of wine per night); however, family input 
that he was actually drinking a "jumbo" bottle of wine per day. 
He was deemed not a transplant candidate
.
# Iliopsoas Hematoma: Patient developed weakness in his right 
leg in ___ of this year, with right iliopsoas hematoma 
demonstrated on CT scan. During this admission, repeat CT scan 
showed a slight improvement in the size of the iliopsoas 
hematoma. 
.   
 
Medications on Admission:
- folic acid 1 mg daily  
- furosemide 20 mg daily  
- nadolol 40 mg daily  
- prednisone 40 mg daily (d/c'ed ___  
- senna 8.6 mg daily  
- spironolactone 100 mg daily  
- thiamine 100 mg daily  
- lactulose 10 mg BID  
- xifaxan 550 mg BID  
- vitamin d 1000 units daily  
- nystatin swish and swallow  
- ursodiol 500 mg BID 
 
Discharge Medications:
EXPIRED
 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
EXPIRED
 
Discharge Condition:
EXPIRED

 
Discharge Instructions:
EXPIRED
 
Followup Instructions:
___